US04684665
A mixture of 51.7 g (0.34 mol) of 4-hydroxybenzoic acid methylester, 500 ml of dimethyl formamide, 60 g (0.40 mol) of 2-ethylhexylchloride and 21.8 g (0.40 mol) of sodium methylate was heated for 7 hours to boiling temperature and, after cooling and removal of the sodium chloride by filtration, was evaporated to dryness under reduced pressure. The residue was dissolved in methylene chloride and chromatographed (eluent: methylene chloride) on silica gel (Merck) to yield 43 g (48% of the theoretical) of 4-(2-ethylhexyloxy)benzoic acid methylester. A refractive index of

reactant | 4-hydroxybenzoic acid methylester | 0.34 mol, 51.7 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | 2-ethylhexylchloride | 0.40 mol, 60 g | C(C)C(CCl)CCCC | C8H17Cl
reactant | sodium methylate | 0.40 mol, 21.8 g | C[O-].[Na+]
solvent | dimethyl formamide | 500 ml | CN(C=O)C | C3H7NO
product | 4-(2-ethylhexyloxy)benzoic acid methylester | COC(C1=CC=C(C=C1)OCC(CCCC)CC)=O | C16H24O3
